US07608631B2
3 g of methanesulfonic acid 3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propyl ester, 0.93 g of 4-hydroxybenzonitrile and 2.9 g of potassium carbonate are stirred for 17 hours at 40° C. in 30 ml of dimethylformamide. The reaction mixture is poured onto water and extracted with ethyl acetate. Concentration of the organic phase yields 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-benzonitrile. 1H-NMR (CDCl3) 300 MHz: 2.30 (m, 2H), 4.14 (t, 2H), 4.32 (t, 2H), 4.58 (d, 2H), 6.10 (t, 1H), 6.83 (s, 2H), 7.00 (d, 2H), 7.60 (d, 2H)

reactant | methanesulfonic acid 3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propyl ester | 3 g | ClC1=C(OCCCOS(=O)(=O)C)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C13H14Cl4O5S
reactant | 4-hydroxybenzonitrile | 0.93 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-benzonitrile | ClC1=C(OCCCOC2=CC=C(C#N)C=C2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C19H15Cl4NO3
